US07863269B2
11g) 2-Bromo-1-(3-dimethylamino-5-pentafluorosulfanylphenyl)ethanone
[3-(2-Bromo-1,1-dimethoxyethyl)-5-pentafluorosulfanylphenyl]dimethylamine (230 mg) was suspended in water (2.3 ml) and then concentrated sulfuric acid (2.3 ml) was added dropwise with cooling. After stirring at RT for 2 h, the mixture was diluted with water (20 ml) and extracted three times with ethyl acetate. The combined organic phases were washed twice with saturated sodium hydrogencarbonate solution, dried over magnesium sulfate, filtered and concentrated. The residue was dissolved in acetonitrile/water, frozen and freeze-dried overnight. 170 mg of the desired compound were obtained.

reactant | [3-(2-Bromo-1,1-dimethoxyethyl)-5-pentafluorosulfanylphenyl]dimethylamine | 230 mg | BrCC(OC)(OC)C=1C=C(C=C(C1)S(F)(F)(F)(F)F)N(C)C | C12H17BrF5NO2S
reactant | sulfuric acid | 2.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 2.3 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 2-Bromo-1-(3-dimethylamino-5-pentafluorosulfanylphenyl)ethanone | 170 mg | BrCC(=O)C1=CC(=CC(=C1)S(F)(F)(F)(F)F)N(C)C | C10H11BrF5NOS
